US03940397
Following the procedure of example 1 but substituting 5.2 g. (0.026 mole) of 1-(o-chlorophenyl)piperazine in part (c) for the N-phenylpiperazine, one obtains the hydrochloride salt of 2-[2-[4-(2-chlorophenyl)-1-piperazinyl]ethyl]-1H-benz[de]isoquinoline-1,3(2H)-dione. This salt is neutralized with aqueous sodium hydroxide and extracted with chloroform. The chloroform solution is dried (Na2SO4), concentrated to 200 ml. and allowed to stand open to the air. The product slowly crystallizes and is removed by filtration. Drying at 50° (60 mm.) overnight yields 4 g. of 2-[2-[4-(2-chlorophenyl)-1-piperazinyl]ethyl]-1H-benz[de]isoquinoline-1,3(2H)-dione; m.p. 213°-214°.

reactant | N-phenylpiperazine | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | 2-[2-[4-(2-chlorophenyl)-1-piperazinyl]ethyl]-1H-benz[de]isoquinoline-1,3(2H)-dione | ClC1=C(C=CC=C1)N1CCN(CC1)CCN1C(C2=CC=CC=3C2=C(C1=O)C=CC3)=O | C24H22ClN3O2
product | 1-(o-chlorophenyl)piperazine | 0.026 mole | ClC1=C(C=CC=C1)N1CCNCC1 | C10H13ClN2
